US05290636
Preparation of DBS/2-EHA Copolymer Latices
A series of emulsion polymerizations of dibromostyrene (DBS)/2-ethylhexyl acrylate (2-EHA) were carried out in 8 oz. bottles. All the ingredients (122.50 or 180 parts by weight deionized water, 3 parts sodium dodecyl sulfate, 0.3 parts potassium persulfate, 0.2 parts t-dodecyl mercaptan and 100 parts total monomers in the ratio desired in the polymer) were charged into 8 oz. bottles and flushed well with nitrogen, and then reacted at 50° C. to about 45.8 or 36.5% solids in 15 hr. The whole bottle was cooled to room temperature and 3 parts deionized water and 0.18 parts 50% H2O2 added, followed by agitation for 20 minutes. The results of these preparations are set forth in Table I. The latices in Examples 1 and 2 perform well in a variety of coating applications, and display improved flame retardancy, while the latices in Examples 3 through 5 give very soft and tacky coatings.

reactant | dibromostyrene | BrC(=CC1=CC=CC=C1)Br | C8H6Br2
reactant | sodium dodecyl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | H2O2 | OO | H2O2
reactant | water | O | H2O
product | 2-EHA | CCCCC(CC)C(=O)O | C8H16O2
